US05449789
Preparation of 4-Chloro-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A mixture of 2-(p-chloropheny1)-5-(trifluoromethyl)pyrrole-3-carbonitile (8.12 g, 0.03 mol) and sodium acetate (0.25 g, 0.003 mol) in acetic acid at 70° C. is treated dropwise with bromine (0.48 g, 0.003 mol). When the color has disappeared, the reaction mixture is treated dropwise with sulfuryl chloride (6.1 g, 0.045 mol) over a 1 hour period, held at 70° C. for 1 hour, concentrated in vacuo and diluted with water. The reaction mixture is filtered, the filter cake is washed with water and dried to yield the title product as a white solid, 7.7 g (84% yield), mp 242°-243° C.

reactant | 2-(p-chloropheny1)-5-(trifluoromethyl)pyrrole-3-carbonitile | 0.03 mol, 8.12 g | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
reactant | sodium acetate | 0.003 mol, 0.25 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.003 mol, 0.48 g | BrBr | Br2
reactant | sulfuryl chloride | 0.045 mol, 6.1 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Chloro-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 84% yield | ClC=1C(=C(NC1C(F)(F)F)C1=CC=C(C=C1)Cl)C#N | C12H5Cl2F3N2
